2152-01-27 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2152-1-26**] 08:38 PM
 ARTERIAL LINE - START [**2152-1-26**] 09:09 PM
 PICC LINE - START [**2152-1-26**] 09:09 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Ciprofloxacin - [**2152-1-26**] 10:38 PM
   Metronidazole - [**2152-1-27**] 12:34 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2152-1-26**] 09:45 PM
   Fentanyl - [**2152-1-27**] 05:21 AM
   Lorazepam (Ativan) - [**2152-1-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 118 (98 - 120) bpm
   BP: 106/73(86) {102/69(83) - 167/104(132)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,596 mL
                                                                  1,089 mL
   PO:
             TF:
   IVF:
                                                                  2,592 mL
                                                                  1,089 mL
   Blood products:
                                                                  1,004 mL
   Total out:
                                                                    440 mL
                                                                    630 mL
   Urine:
                                                                    440 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,156 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 489 (489 - 489) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.46/33/154/22/1
   Ve: 6.3 L/min
   PaO2 / FiO2: 385
   Physical Examination
   GENERAL: intubated, sedated
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]. No JVD
   LUNGS: mild bronchial breathsounds. o/w CTAB, good air movement
   bilaterally.
   ABDOMEN: distended, dressed midline incision with serosanguinous
   discharge.  hypoactive bs.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated, shakes head yes/no to questions, wiggles toes on
   commands. CN 2-12 grossly intact.
   Labs / Radiology
   247 K/uL
   14.1 g/dL
   147 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.3 mEq/L
   12 mg/dL
   102 mEq/L
   132 mEq/L
   40.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2152-1-26**]  07:42 PM
                             [**2152-1-26**]  09:15 PM
                             [**2152-1-26**]  09:24 PM
                             [**2152-1-27**]  03:48 AM
                             [**2152-1-27**]  04:00 AM
   WBC
   5.5
   11.4
   Hct
   37
   39.2
   40.6
   Plt
   223
   247
   Cr
   0.4
   0.5
   TCO2
   23
   23
   24
   Glucose
   131
   133
   147
   Other labs: PT / PTT / INR:13.1/29.7/1.1, ALT / AST:82/72, Alk Phos / T
   Bili:89/0.8, Amylase / Lipase:117/112, Differential-Neuts:60.6 %,
   Lymph:35.3 %, Mono:2.1 %, Eos:1.7 %, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:160 IU/L, Ca++:6.9 mg/dL, Mg++:1.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   59 yo female s/p exlap for meckels with ileocolic resection c/b rebleed
   from the anastamosis and sbo, now s/p lysis of adhesions and revision
   of anastamosis.
   .
   #. GI bleed/SBP: status post revision of anastamosis, which is likely
   source of GIB, and lysis of adhesions.  VSS and Hct stable after 8
   total U PRBCs. No further bloody BM.
   - trend HCT q8hours, monitor for BRBPR
   - NPO, NGT
   - follow abd exam
   - cipro/flagyl for 1-2 days post-op
   - trend LFTs/[**Doctor First Name **]/lipase (trending down)
   - continue to follow with surgery
   - PCA Dilaudid for pain control
   .
   #. Tachycardia: Pt was initially tachycardic and hypertensive when
   agitated on vent, however continues to be tachycardic to 120s now
   extubated. Is in pain but also somnolent. UOP also decreased over past
   few hours to 20cc/hr.
   - discuss IVFs with surgery and bolus
   .
   #. s/p intubation: electively intubated for colonoscopy, then surgery.
   Remained intubated [**2-22**] fluid resusitation and concern for volume
   overload and h/o being v. difficult intubation. Self extubated this AM
   after sedation weaned. Currently stable resp status on NC.
   .
   #. low albumin: likely due to acute phase lowering.  No known
   underlying liver disease (plus, coags wnl).
   - advance diet when able
   - restart TPN per [**Doctor First Name **] recs
   .
   #. depression: resume paxil after extubated
   .
   FEN: NPO
   .
   PPX:
   -restart SCH since Hct stable
   -Bowel regimen
   -famotidine
   .
   ACCESS: right PICC, left A-line, 2 18G PIVs.
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: husband [**Name (NI) 851**] [**Name (NI) 8452**]  [**Telephone/Fax (1) 10261**]
   .
   DISPOSITION: extubation and call-out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2152-1-26**] 09:09 PM
   PICC Line - [**2152-1-26**] 09:09 PM
   18 Gauge - [**2152-1-26**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE
   Present for key portions of resident
s history and exam. Agree with
   assessment and plan.  She is extubated successfully.  Remains
   tachycardic for uncertain reasons. We have treated pain and she denies
   discomfort. Hct is stable. Given IVF bolus w/o clear effect. [**Month (only) 11**]
   reflect stress of procedure.  UO poor, however so she may still benefit
   from volume resus.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2152-1-27**] 19:16 ------

2152-01-28 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - sinus tachycardia persisted throughout day, likely
   stress, possible hemorrhage given drop in Hct
   - serial Hct's overnight with 4 units typed and crossed
   - possible transfer to [**Hospital Ward Name **] tomorrow?
   - did not start TPN today
   - deferred SC heparin as Hct unstable
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2152-1-27**] 08:31 AM
 INVASIVE VENTILATION - STOP [**2152-1-27**] 08:31 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Ciprofloxacin - [**2152-1-27**] 07:57 PM
   Metronidazole - [**2152-1-28**] 12:01 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2152-1-27**] 10:26 AM
   Famotidine (Pepcid) - [**2152-1-27**] 10:00 PM
   Lorazepam (Ativan) - [**2152-1-28**] 03:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 114 (113 - 126) bpm
   BP: 150/79(104) {96/60(66) - 151/93(111)} mmHg
   RR: 11 (9 - 24) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.6 kg (admission): 66 kg
             Total In:
                                                                  4,199 mL
                                                                  1,261 mL
   PO:
             TF:
   IVF:
                                                                  3,939 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    700 mL
   Urine:
                                                                  1,040 mL
                                                                    500 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,959 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 519 (519 - 519) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 92%
   ABG: ///27/
   Ve: 9.5 L/min
   Physical Examination
   GENERAL: NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]. No JVD
   LUNGS: mild bronchial breathsounds. o/w CTAB, good air movement
   bilaterally.
   ABDOMEN: distended, midline incision with minimal serosanguinous
   discharge, C/D/I with no dressing over staples.  hypoactive bs.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: alert and oriented
   Labs / Radiology
   239 K/uL
   11.2 g/dL
   139 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   11 mg/dL
   102 mEq/L
   132 mEq/L
   32.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2152-1-26**]  07:42 PM
                             [**2152-1-26**]  09:15 PM
                             [**2152-1-26**]  09:24 PM
                             [**2152-1-27**]  03:48 AM
                             [**2152-1-27**]  04:00 AM
                             [**2152-1-27**]  10:07 AM
                             [**2152-1-27**]  05:35 PM
                             [**2152-1-27**]  08:09 PM
                             [**2152-1-28**]  01:05 AM
                             [**2152-1-28**]  03:44 AM
   WBC
   5.5
   11.4
   10.5
   Hct
   37
   39.2
   40.6
   38.7
   33.2
   32.4
   32.7
   32.7
   Plt
   223
   247
   239
   Cr
   0.4
   0.5
   0.5
   0.4
   TCO2
   23
   23
   24
   Glucose
   131
   133
   147
   113
   139
   Other labs: PT / PTT / INR:14.3/31.0/1.2, ALT / AST:108/104, Alk Phos /
   T Bili:68/0.5, Amylase / Lipase:117/112, Differential-Neuts:60.6 %,
   Lymph:35.3 %, Mono:2.1 %, Eos:1.7 %, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:160 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   59 yo female s/p exlap for meckels with ileocolic resection c/b rebleed
   from the anastamosis and sbo, now s/p lysis of adhesions and revision
   of anastamosis.
   .
   #. GI bleed/SBP: status post revision of anastamosis, which is likely
   source of GIB, and lysis of adhesions. No further bloody BM. Hct
   dropped yesterday 38 to 32, then remained stable without further
   transfusion, now dropped to 30. There is concern that anastamosis was
   not actual source of bleed. Pt remains hemodynamically stable with no
   BRBPR.
   - transfuse 2 U PRBC and 2 U FFP
   - trend HCT q8hours, monitor for BRBPR
   - NPO, NGT
   - follow abd exam
   - cipro/flagyl for 1-2 days post-op
   - trend LFTs/[**Doctor First Name **]/lipase (trending down)
   - continue to follow with surgery
   - PCA Dilaudid for pain control
   - transfer to surgery West
   .
   #. Tachycardia: Pt was initially tachycardic and hypertensive when
   agitated on vent, however continues to be tachycardic to 120s now
   extubated. Likely due to pain and anemia. UOP 50-80/hr.
   - cont IVF prn, transfuse as above
   - discuss with surgery
   .
   #. Fever: T 101.3 around rounds, pan-cx
   - notified surgery
   .
   #. depression: resume paxil after extubated
   .
   FEN: restart TPN today
   .
   PPX:
   -held off SCH since Hct drop
   -Bowel regimen
   -famotidine
   .
   ACCESS: right PICC, left A-line, 2 18G PIVs.
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: husband [**Name (NI) 851**] [**Name (NI) 8452**]  [**Telephone/Fax (1) 10261**]
   .
   DISPOSITION: ICU for today, discuss transfer West with surgery
   ICU Care
   Nutrition:
   TPN without Lipids - [**2152-1-27**] 06:22 PM 46 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2152-1-26**] 09:09 PM
   PICC Line - [**2152-1-26**] 09:09 PM
   18 Gauge - [**2152-1-26**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to West surgery